US05120738
Preparation of N-(4-Hydroxyphenyl)-3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propanamide
3-[N-(2,2,5,5-Tetramethyl-1,3-dioxane-4-carbonyl)amino]propionic acid (1.04 g) and 0.665 g of p-aminophenol were reacted in the same manner as in Reference Example 15 to obtain 1.37 g of the objective compound (yield: 98%).

reactant | 3-[N-(2,2,5,5-Tetramethyl-1,3-dioxane-4-carbonyl)amino]propionic acid | 1.04 g | CC1(OCC(C(O1)C(=O)NCCC(=O)O)(C)C)C | C12H21NO5
reactant | p-aminophenol | 0.665 g | C1=CC(=CC=C1N)O | C6H7NO
product | N-(4-Hydroxyphenyl)-3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propanamide | 1.37 g, yield: 98% | OC1=CC=C(C=C1)NC(CCNC(=O)C1OC(OCC1(C)C)(C)C)=O | C18H26N2O5
